US05827849
c) 4-Ethoxycarbonyl-3-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine
Prepared from 4-ethoxycarbonyl-3-hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine 2-oxide by hydrogenation in ethanol at 130° C. in the presence of Raney nickel.

reactant | 4-ethoxycarbonyl-3-hydroxy-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine 2-oxide | C(C)OC(=O)C1=C([N+](=CC=2CCN(CCC21)CC2=CC=CC=C2)[O-])O | C19H22N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-Ethoxycarbonyl-3-hydroxy-7-ethyl-6,7,8,9-tetrahydro-5H-pyrido[3,4-d]azepine | C(C)OC(=O)C1=C(N=CC=2CCN(CCC21)CC)O | C14H20N2O3
